US08193227B2
(acetyloxy)[4-(chlorosulfonyl)phenyl]methyl acetate
A solution of p-toluenesulfonyl chloride (40.2 g) in acetic acid:acetic anhydride (800 mL, 1:1) was treated with conc. sulfuric acid (64 mL, 5 equivalents) at 0-5° C. Chromium trioxide (80 g, 4 equivalents) was added at such a rate that the temperature remained below 10° C. The mixture was stirred at 5-10° C. until reaction was completed as indicated by TLC. The mixture was quenched with ice water (2 L), and the solids were filtered, washed with water, and dried. The solids were combined with saturated NaHCO3 (1 L) at 25° C. for 2 hrs, filtered, dissolved in dichloromethane (1 L), dried over Na2SO4, filtered and concentrated. The residue was recrystallized from 2-3 volumes of hot acetone/pentane and cooling for 16 hrs. The crystals are filtered, and washed with cold pentane to give the product (24 g, 38%). 1H NMR (CDCl3): δ 8.09 (d, J=9 Hz, 2H), 7.77 (d, J=9 Hz, 2H), 7.73 (s, 1H), 2.16 (s, 6H).

reactant | p-toluenesulfonyl chloride | 40.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | acetic anhydride | 800 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 64 mL, 5 equivalents | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Chromium trioxide | 80 g, 4 equivalents | [O-2].[O-2].[O-2].[Cr+6]
product | (acetyloxy)[4-(chlorosulfonyl)phenyl]methyl acetate | 24 g, 38% | C(C)(=O)OC(C1=CC=C(C=C1)S(=O)(=O)Cl)OC(C)=O | C11H11ClO6S
